US08017602B2
Step i) 3-(3-Cyanophenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide
To 3-(3-bromophenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide (4 g) [Preparation 3] in DMF (30 mL) was added zinc cyanide (1.59 g) and Pd(Ph3P)4 (0.52 g). The reaction flask was flushed with nitrogen then heated to 130° C. with stirring under nitrogen for 1 h. The reaction was worked up by the addition of ethyl acetate, which was washed three times with water, twice with brine, dried over sodium sulphate, filtered and the solvent removed to afford crude product as a yellow oil/gum. Further purification on silica eluting with 10-40% ethyl acetate/isohexane afforded the sub-titled compound as a pale yellow oil (3.44 g). MS [M+H-MeOH]+=357 (MultiMode+)

reactant | 3-(3-bromophenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide | 4 g | BrC=1C=C(CCOCCC(=O)N(CC(OC)OC)C2CCCCC2)C=CC1 | C21H32BrNO4
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
catalyst | zinc cyanide | 1.59 g | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd(Ph3P)4 | 0.52 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-Cyanophenethoxy)-N-cyclohexyl-N-(2,2-dimethoxyethyl)propanamide | 3.44 g | C(#N)C=1C=C(CCOCCC(=O)N(CC(OC)OC)C2CCCCC2)C=CC1 | C22H32N2O4
